US07309712B2
Preparation 34: 4-(2-Cyclopropyl-2-oxoethoxy)-2,6-dimethylbenzonitrile
Cesium carbonate (30.7 g, 111.16 mmol) was added to a solution of 4-hydroxy-2,6-dimethylbenzonitrile (15.27 g, 101.89 mmol), in acetone (377 ml). Then 2-bromo-1-cyclopropylethanone (15.1 g, 62.6 mmol), in acetone (100 ml), was added dropwise, over 5 minutes, to the suspension and the reaction mixture was heated at reflux for 1.5 hours. The reaction mixture was then concentrated under reduced pressure and the residue was partitioned between a saturated aqueous solution of potassium carbonate (300 ml) and dichloromethane (300 ml). The organic layer was separated and washed with brine (250 ml), dried over magnesium sulphate, filtered and then concentrated under reduced pressure. The crude product was purified by flash chromatography on silica gel eluting with dichloromethane:pentane (50:50 to 80:20, by volume) to provide the title compound (13.5 g, 64%) as a solid. 1H-NMR (400 MHz, CDCl3): δ=0.97-1.01 (m, 2H), 1.12-1.15 (m, 2H), 2.19 (m, 1H), 2.47 (s, 6H), 4.71 (s, 2H), 6.61 (s, 2H); LRMS: APCl−: 230 [MH+]

reactant | Cesium carbonate | 111.16 mmol, 30.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-hydroxy-2,6-dimethylbenzonitrile | 101.89 mmol, 15.27 g | OC1=CC(=C(C#N)C(=C1)C)C | C9H9NO
reactant | 2-bromo-1-cyclopropylethanone | 62.6 mmol, 15.1 g | BrCC(=O)C1CC1 | C5H7BrO
solvent | acetone | 377 ml | CC(=O)C | C3H6O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 4-(2-Cyclopropyl-2-oxoethoxy)-2,6-dimethylbenzonitrile | 13.5 g, 64% | C1(CC1)C(COC1=CC(=C(C#N)C(=C1)C)C)=O | C14H15NO2
